US04550169
A 6.43 g portion of 3,4,5,6-tetrahydro-2-(methylthio)-pyridine, hydroiodide was added to an ice-cold solution of 1.25 ml of hydrazine hydrate in 35 ml of ethanol. The suspension was stirred at ice bath temperature for 30 minutes, then the solid was collected, washed with ethanol and ether and dried, giving 3.5 g of 2-hydrazino-3,4,5,6-tetrahydropyridine, hydroiodide, which was converted to the monohydronitrate by treatment with silver nitrate in water.

reactant | 3,4,5,6-tetrahydro-2-(methylthio)-pyridine, hydroiodide | I.CSC1=NCCCC1
reactant | hydrazine hydrate | 1.25 ml | O.NN
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 2-hydrazino-3,4,5,6-tetrahydropyridine, hydroiodide | 3.5 g | I.N(N)C1=NCCCC1 | InChI=1S/C5H11N3.HI/c6-8-5-3-1-2-4-7-5;/h1-4,6H2,(H,7,8);1H
